US07923450B2
a) 5-(1,4-Dioxa-spiro[4.5]dec-6-yl)-3-methyl-[1,2,4]oxadiazole
A mixture of 1,4-dioxa-spiro[4.5]decane-6-carboxylic acid (3.72 g, 20 mmol), N,N-dicyclohexyl-carbodiimid (2.06 g, 22 mmol) and 1-hydroxy-benzotriazole (3.03 g, 22 mmol) in tetrahydrofuran (40 mL) was stirred at 0° C. for 3.5 h. N-Hydroxy-acetamidine (1.48 g, 20 mmol) was added to the mixture and stirring was continued at 20° C. for 18 h. The reaction mixture was cooled to 0° C. and insoluble material was removed by filtration. The filtrate was evaporated under reduced pressure. Toluene (250 mL) was added to the remaining oil and the mixture was heated at reflux for 5 h, water being removed using a Dean-Stark trap. The solution was cooled, solvents were evaporated under reduced pressure, and the residual material was purified by column chromatography on silica gel (100 g) using heptane/20-80% ethyl acetate as eluent to give the title compound (2.70 g, 60%). Obtained as light-yellow oil. MS ISP (m/e): 225.1 [(M+H)+].

reactant | 1,4-dioxa-spiro[4.5]decane-6-carboxylic acid | 20 mmol, 3.72 g | O1CCOC12C(CCCC2)C(=O)O | C9H14O4
reactant | 1-hydroxy-benzotriazole | 22 mmol, 3.03 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-Hydroxy-acetamidine | 20 mmol, 1.48 g | ONC(C)=N | C2H6N2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-(1,4-Dioxa-spiro[4.5]dec-6-yl)-3-methyl-[1,2,4]oxadiazole | 2.70 g, 60% | O1CCOC12C(CCCC2)C2=NC(=NO2)C | C11H16N2O3
